Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7][H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-8.30374042445
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],4.9093076256
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.3519697303100002
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5][C:7]([H:6])=[C:8]([H:9])[H:10],1.61842248406
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4][C:6]([H:7])[H:8].[H:5],4.96319559588
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.86552489879
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],4.09338893263
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[O:3],-3.3675813758
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],3.06254789504
[O:1]=[C:2]([H:3])[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],1.6422449259600005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6],1.77415463431
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.77937149637
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-4.02130733431
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.6830444872310001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],1.86199905491
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.412055239
[H:1][O:2][C:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:10](\[C:8][H:9])[H:11],1.4783110281
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([O:5])[C:9](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],-0.0641637843801
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-5.83748485418
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.51343865833
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[C:6]([H:7])[O:8][H:9].[H:1][C:2]#[C:3][O:4][C:5],4.38800701603
[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9],-2.1766158205
[H:1][C:2]([H:3])[C:5]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4][C:8]([H:6])[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.49555252856
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-0.96139543269
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:1][C:2],8.583829760419999
[C:1]#[C:2][C:8]([H:9])=[C:10]([H:11])[H:12].[C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.44264858701
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.9342421618
[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.23178473245
